US09062092B2
A solution of (S)-2-amino-3-methyl-butyric acid methyl ester hydrochloride (6.72 g, 40 mmol) in water (50 mL) was partitioned between saturated sodium hydrogen carbonate solution and dichloromethane. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated to afford (S)-2-amino-3-methyl-butyric acid methyl ester (40 mmol). A solution of (S)-2-amino-3-methyl-butyric acid methyl ester (40 mmol), 2,2,2-trifluoro-1-methoxy-ethanol (5.2 g, 3.8 mL, 40 mmol) and 4-toluenesulfonic acid hydrate (100 mg) in toluene (125 mL) was heated at reflux using a Dean-Stark apparatus for 3 h. The reaction mixture was cooled to room temperature and the solvent was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 10:1 to 5:1 to afford the title compound (4.79 g, 56%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 0.94 (d, J=7.1 Hz, 3H), 0.97 (d, J=7.1 Hz, 3H), 2.32-2.44 (m, 1H), 3.73-3.77 (m, 4H), 7.67 (q, J=3.3 Hz, 1H).

reactant | (S)-2-amino-3-methyl-butyric acid methyl ester hydrochloride | 40 mmol, 6.72 g | Cl.COC([C@H](C(C)C)N)=O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | (S)-2-amino-3-methyl-butyric acid methyl ester | 40 mmol | COC([C@H](C(C)C)N)=O | C6H13NO2
